US07846960B2
3-Cyclopropyl-2-oxo-propionic Acid Ethyl Ester
To a 0° C. suspension of NBS (439 mmol, 79 g) in a mixture of acetonitrile (400 mL) and water (100 mL) is added a solution of 2-cyclopropylmethyl-[1,3]dithiane-2-carboxylic acid ethyl ester (73.2 mmol, 18.05 g) in acetonitrile (50 mL) over 15 minutes. The reaction is warmed and is stirred at room temperature. After 45 minutes, 500 mL of 1:1 hexane/DCM is added. The layers are separated. The organic layer is washed with saturated Na2SO3 (2×225 mL) and brine (2×225 mL), dried with Na2SO4, filtered, and concentrated under reduced pressure to a residue. The residue is diluted in CCl4 and is filtered. The filtrate is concentrated to give the title compound (7 g, 61%). LC-MS: 157.0 (M+1).

reactant | NBS | 439 mmol, 79 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-cyclopropylmethyl-[1,3]dithiane-2-carboxylic acid ethyl ester | 73.2 mmol, 18.05 g | C(C)OC(=O)C1(SCCCS1)CC1CC1 | C11H18O2S2
reactant | hexane DCM | 500 mL | CCCCCC.C(Cl)Cl
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3-Cyclopropyl-2-oxo-propionic Acid Ethyl Ester | 7 g, 61% | C(C)OC(C(CC1CC1)=O)=O | C8H12O3
